US20010014682A1
a) 1-t-Butoxycarbonyl-4-(4-nitrophenyl)piperazine
To a solution of 1-(4-nitrophenyl)piperazine (2.50 g, 12.1 mmol) in THF (35 mL) at 0° C. was added portionwise di-t-butyldicarbonate (3.16 g, 14.5 mmol). The ice bath was removed and the reaction was allowed to warm to RT. After 1.5 h, the solvent was removed under reduced pressure and the residue was azeotroped with hexanes (3 times, to remove the t-BuOH) to give the 3.71 g of the desired product as a yellow powder. This was used in the next step without further purification. MS (ES+) m/z 308.2 (M+H+).

reactant | 1-(4-nitrophenyl)piperazine | 12.1 mmol, 2.50 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | di-t-butyldicarbonate | 14.5 mmol, 3.16 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 1-t-Butoxycarbonyl-4-(4-nitrophenyl)piperazine | 3.71 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H21N3O4
